US04205074
2-(Diphenylmethylene)quinolizidine methyl iodide
In 10 ml. of acetone was dissolved 0.1 g. of 2-(diphenylmethylene)quinolizidine. After 1.0 ml. of methyl iodide was added to the solution, the mixture was stirred at room temperature of 24 hrs. The precipitated crystals were removed by filtration and recrystallized from methanol to give 0.1 g. of colorless needles having a melting point of 280° to 282° C.(decomposed).

reactant | 2-(diphenylmethylene)quinolizidine | C1(=CC=CC=C1)C(=C1CC2CCCCN2CC1)C1=CC=CC=C1 | C22H25N
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 2-(Diphenylmethylene)quinolizidine methyl iodide | CI.C1(=CC=CC=C1)C(=C1CC2CCCCN2CC1)C1=CC=CC=C1 | InChI=1S/C22H25N.CH3I/c1-3-9-18(10-4-1)22(19-11-5-2-6-12-19)20-14-16-23-15-8-7-13-21(23)17-20;1-2/h1-6,9-12,21H,7-8,13-17H2;1H3
